US08623889B2
7-(5-fluoro-2-methylphenyl)-N-(6-methoxypyridin-2-yl)isoquinolin-3-amine
To 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (151.4 mg, 0.6001 mmol) and 2-bromo-6-methoxypyridine (110.0 uL, 0.8951 mmol) was added 1,4-dioxane (4.0 mL, 51 mmol). Nitrogen gas was bubbled through this mixture while stirring for 10 minutes, and then palladium (II) acetate (14.5 mg, 0.0646 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (57.1 mg, 0.0987 mmol), and cesium carbonate (397.6 mg, 1.220 mmol) were added. The reaction mixture was stirred in a sealed vial at 100° C. for 90 minutes. The reaction mixture was diluted with dichloromethane, filtered through celite, and evaporated in vacuo. The crude residue was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-80% ethyl acetate in dichloromethane) to yield 227.4 mg of the title compound as 80% pure material. 52.4 mg of this material was purified via reverse phase HPLC and lyophilized to yield 17.9 mg of 7-(5-fluoro-2-methylphenyl)-N-(6-methoxypyridin-2-yl)isoquinolin-3-amine. LCMS (ESI): RT (min)=5.057, M+H=360.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 9.80 (s, 1H), 9.11 (s, 1H), 8.58 (s, 1H), 7.97 (s, 1H), 7.84 (d, J=8.5 Hz, 1H), 7.64 (d, J=8.4 Hz, 1H), 7.56 (t, J=7.8 Hz, 1H), 7.38 (q, J=6.3 Hz, 1H), 7.15 (t, J=8.5 Hz, 2H), 6.82 (d, J=7.8 Hz, 1H), 6.28 (d, J=7.8 Hz, 1H), 4.01 (s, 3H), 2.26 (s, 3H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.6001 mmol, 151.4 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | 2-bromo-6-methoxypyridine | 0.8951 mmol, 110.0 uL | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | 1,4-dioxane | 51 mmol, 4.0 mL | O1CCOCC1 | C4H8O2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.0987 mmol, 57.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.220 mmol, 397.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 0.0646 mmol, 14.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-(5-fluoro-2-methylphenyl)-N-(6-methoxypyridin-2-yl)isoquinolin-3-amine | 227.4 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC1=NC(=CC=C1)OC)C | C22H18FN3O
